US08809538B2
2-hydroxy-6-methyl-5-nitronicotinonitrile
A suspension of 2-hydroxy-6-methylnicotinonitrile (16.5 g) in acetic anhydride (60 mL) was stirred and cooled in an ice-salt bath. Separately, acetic anhydride (16 mL) containing a crystal of urea (21 mg) was cooled in an ice-salt bath to 2° C. To the latter mixture was added fuming nitric acid (8.6 mL). The mixture evolved nitrogen dioxide gas and became hot. Cooling in the bath was continued until the temperature reached 8° C. This solution was then added to the nitrile suspension, which was at −2° C. The temperature rose to 0° C., and the cooling bath was removed. The temperature rose slowly as the mixture was stirred, and the rate of temperature rise increased as the temperature rose. When the temperature reached 35° C., the flask was cooled in the bath until the temperature fell to 25° C. The bath was again removed. The temperature rose more slowly this time, and reached a maximum of 34° C. The reaction was allowed to cool on its own, and did not reach ambient temperature for about 3 hours. The resulting mixture was allowed to stir at ambient temperature overnight. The mixture was poured into a beaker containing crushed ice (300 g). The mixture was stirred until the ice melted, and the resulting precipitate was collected by filtration, washed with ice water, and air-dried to give about 13 g of light yellow solid. This material was recrystallized from boiling glacial acetic acid (130 mL). The resulting mixture was allowed to cool to ambient temperature and stirred overnight. The precipitate was collected by filtration, washed with a small amount of glacial acetic acid, and dried under vacuum to provide the title compound (8.2 g) with the following physical data.

reactant | 2-hydroxy-6-methylnicotinonitrile | 16.5 g | OC1=C(C#N)C=CC(=N1)C | C7H6N2O
reactant | urea | 21 mg | NC(=O)N | CH4N2O
reactant | nitric acid | 8.6 mL | [N+](=O)(O)[O-] | HNO3
reactant | nitrogen dioxide | [N+](=O)[O-] | NO2
solvent | acetic anhydride | 60 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 16 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-hydroxy-6-methyl-5-nitronicotinonitrile | about 13 g | OC1=C(C#N)C=C(C(=N1)C)[N+](=O)[O-] | C7H5N3O3
